US07241785B2
To a mixture of 1-benzyl-3-benzyloxy-1H-pyrazole-4-carbaldehyde (12.90 g), diethylphosphonoethyl acetate (9.60 ml) and N,N-dimethylformamide (200 ml) was added hydride (60% in oil, 1.94 g) at 0° C., and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dilute hydrochloric acid, washed successively with saturated brine, dried (MgSO4) and concentrated. The obtained crystals were collected by filtration to give ethyl (E)-3-(1-benzyl-3-benzyloxy-1H-pyrazol-4-yl)propenoate (14.50 g, yield 91%). The crystals were recrystallized from ethyl acetate-hexane. melting point: 88–89° C.

reactant | 1-benzyl-3-benzyloxy-1H-pyrazole-4-carbaldehyde | 12.90 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C=O)OCC1=CC=CC=C1 | C18H16N2O2
reactant | diethylphosphonoethyl acetate | 9.60 ml | C(C)(=O)OCCP(=O)(OCC)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | hydride | 1.94 g | [H-]
solvent | water | O | H2O
product | ethyl (E)-3-(1-benzyl-3-benzyloxy-1H-pyrazol-4-yl)propenoate | 14.50 g, yield 91% | C(C1=CC=CC=C1)N1N=C(C(=C1)/C=C/C(=O)OCC)OCC1=CC=CC=C1 | C22H22N2O3
